US07435815B2
4-tert-Butyl-N-p-tolyl-benzenesulfonamide
prepared by reaction of p-toluidine with 4-tert-butyl-benzenesulfonyl chloride

reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | 4-tert-butyl-benzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-p-tolyl-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)C | C17H21NO2S
